US07632840B2
4-(3-Chloro-2-fluoroanilino)-7-methoxyquinazoline-6-carbaldehyde was coupled with N-butylglycine using an analogous method to that described for the equivalent step in Example 1 to give N-butyl-N-({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)glycine; 1H NMR Spectrum: (DMSO-d6) 0.83 (t, 3H); 1.27 (m, 2H); 1.46 (m, 2H); 2.70 (t, 2H); 3.33 (s, 2H); 3.95 (s, 5H); 7.20 (s, 1H); 7.28 (t, 1H); 7.47 (m, 1H); 7.55 (m, 1H); 8.36 (s, 1H); 8.43 (s, 1H); 9.82 (s, 1H); Mass Spectrum: (M+H)+ 447.

reactant | 4-(3-Chloro-2-fluoroanilino)-7-methoxyquinazoline-6-carbaldehyde | ClC=1C(=C(NC2=NC=NC3=CC(=C(C=C23)C=O)OC)C=CC1)F | C16H11ClFN3O2
reactant | N-butylglycine | C(CCC)NCC(=O)O | C6H13NO2
product | N-butyl-N-({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)glycine | C(CCC)N(CC(=O)O)CC=1C=C2C(=NC=NC2=CC1OC)NC1=C(C(=CC=C1)Cl)F | C22H24ClFN4O3
